Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C-:5](=[O+:6][C:7]([H:19])([H:20])[H:21])[H:17].[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:18])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],12.736530660271697
[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]([C:4]([H:12])([H:13])[H:14])[H:11].[C:5]1([H:15])([H:16])[C:6]([H:17])([H:18])[O:7]1>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],12.50240165597009
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]1=[C:2]([C:3]([O:4][H:10])([H:8])[H:9])[C@@:5]1([C:6]#[N:7])[H:11],75.68543328246629
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[C:5]([C:6]#[N:7])([H:15])[H:16],71.0292135169107
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:17])([C:7]1=[C:4]([O:5][H:14])[C:6]1([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],109.939645276476
[N:1]([C+:5]([N-:4][N:3]=[C:2]=[O:7])[N:6]([H:10])[H:11])([H:8])[H:9]>>[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9],44.7974107561526
[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]1([C:5](=[O:6])[H:14])[H:13].[O:1]([H:7])[H:12],65.257998787227
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[C:4](=[N:5][C:6](=[O:7])[H:12])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:8])[H:9],54.883697186797114
[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[O:4]=[C:5]=[N:6][H:11]>>[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9],46.785152112935826
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N:1]#[C:2][C:3]1(/[C:4](=[N:5]/[H:9])[H:8])[N:6]=[N:7]1,126.626507585896
[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](=[O:5])([C:6](=[O:7])[H:11])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],49.16911807672551
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[N:7]/[C:6]#[C:2][O:3][C:4](=[O:5])[H:9])\[H:8],153.7858700539
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[C:6](=[O:7])([H:8])[H:10].[N:1]#[C:2][O:3][C:4](=[O:5])[H:9],76.3670228060136
[C:1](/[C:2](=[N:3]/[C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[H:12][H:16]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],62.717982451308615
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[C:4]=[N:5][H:9].[N:1]#[C:2][C-:3]([N+:7]#[N:6])[H:8],79.3503876768588
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([H:10])=[C:3]([H:11])[C:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],78.41175895756449
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]([C:2]([C+:3]([O:4][H:14])[H:13])([H:11])[H:12])([H:8])[H:9].[C:5]([C:6]#[N:7])([H:10])([H:15])[H:16],81.9227798363768
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C@@:4]1([O:5][H:16])[O:6][C:7]1([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],81.3104150064352
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]1([H:20])[H:21],87.18383213012251
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:6]([H:16])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([O:7][H:19])[H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],56.26101858760371
[C:1]([N:2]([C+:3]([O:4][H:12])[N-:5][C+:6]([N-:7][H:14])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],19.432580212065297
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([O:6][C@@:5]1([H:13])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[N:4]1[H:12])[H:7],132.428825437742
[O:1]([C:2]([N+:6]#[C:5][C:4]#[C-:3])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],40.6877008662149
[C:1]([C:2]([C:3](=[C:4]=[O:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[N:6]([H:13])([H:14])[H:15]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],33.862616499707094
